US07332492B2
5,5-Dioxo-2-(6-methylpyridazin-3-ylamino)dibenzothiophene
Hydrogen peroxide (100 vols, 1 ml) was added to 2-(6-methylpyridazin-3-ylamino)dibenzothiophene Example 74; 300 mgs, 1.03 mmol) in acetic acid (3 ml) and conc. sulphuric acid (0.1 ml) and the mixture was heated to 60° C. for 40 minutes. On cooling to room temperature the mixture was diluted with DCM:MeOH (1:19) washed with aqueous potassium carbonate, dried over sodium sulphate and concentrated. Chromatography (eluent gradient of DCM to DCM:MeOH (1:1)) gave the product as an off white solid (0.131 g). NMR: 9.87 (brs, 1H), 8.48 (brs, 1H), 8.00-7.70 (m, 5H), 7.65 (t, 1H), 7.45 (d, 1H), 7.20 (d, 1H), 2.52 (s, 3H); m/z 324.28.

reactant | Hydrogen peroxide | 1 ml | OO | H2O2
reactant | 2-(6-methylpyridazin-3-ylamino)dibenzothiophene | CC1=CC=C(N=N1)NC1=CC2=C(SC3=C2C=CC=C3)C=C1 | C17H13N3S
reactant | sulphuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | DCM MeOH | C(Cl)Cl.CO
product | 5,5-Dioxo-2-(6-methylpyridazin-3-ylamino)dibenzothiophene | 0.131 g | O=S1(C2=C(C3=C1C=CC=C3)C=C(C=C2)NC=2N=NC(=CC2)C)=O | C17H13N3O2S
